US06579884B1
Synthesis of 8-(2,6-dimethylphenetyl)-2,3-dimethylimidazo[1,2-a]pyridine
8-(2-(2,6-dimethylphenyl)ethenyl)-2,3-dimethylimidazo[1,2-a]pyridine was solved in methanol (3 ml) and ethanol (2 ml) and Pd/C (10%) (40 mg) was added. The mixture was hydrogenated at room temperature and atmospheric pressure until the uptake of hydrogen ceased. Following filtration through celite, the solvents were evaporated under reduced pressure to give the title compound, (0.069 g, 100%).

reactant | 8-(2-(2,6-dimethylphenyl)ethenyl)-2,3-dimethylimidazo[1,2-a]pyridine | CC1=C(C(=CC=C1)C)C=CC=1C=2N(C=CC1)C(=C(N2)C)C | C19H20N2
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
reactant | methanol | 3 ml | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 8-(2,6-dimethylphenetyl)-2,3-dimethylimidazo[1,2-a]pyridine | 0.069 g, 100% | CC1=C(C(=CC(=C1)OCC)C)C=1C=2N(C=CC1)C(=C(N2)C)C | C19H22N2O
